US06479536B1
3-(4-Fluorophenyl)-N-(4-methoxybenzyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine
By using N-[3-(4-fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-4-methoxybenzamide, the title compound was synthesized according to Example 2b. Yield: 52%. Melting point: 114-115° C. (Methanol)

reactant | N-[3-(4-fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-4-methoxybenzamide | FC1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NC(C2=CC=C(C=C2)OC)=O)C)(C)C | C27H28FNO3
solvent | Methanol | CO | CH4O
product | 3-(4-Fluorophenyl)-N-(4-methoxybenzyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | Yield: 52% | FC1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NCC2=CC=C(C=C2)OC)C)(C)C | C27H30FNO2
